US04845239
50 g (0.11 mol) of sodium octadecenyl 2-hydroxy-3-chloropropyl phosphate was charged into a reactor, to which 1000 ml of ethanol was added, followed by agitation and heating to 70° C. to obtain a uniform mixture. Thereafter, the reaction system was cooled down to 30° C., to which was gradually added 60.0 g (0.11 mol) of a 0.0018 mol/g sodium hydroxide ethanol solution, followed by agitation for 4 hours while keeping the temperature. The HPLC analysis revealed the disappearance of a peak of the starting material with a peak for the resultant new product appearing. The resultant NaCl precipitate was removed by filtration and the ethanol was distilled off under reduced pressure to obtain 46 g (yield: 100%) of sodium octadecenyl glycidyl phosphate.

reactant | sodium octadecenyl 2-hydroxy-3-chloropropyl phosphate | 0.11 mol, 50 g | P(=O)(OC=CCCCCCCCCCCCCCCCC)(OCC(CCl)O)[O-].[Na+]
reactant | sodium hydroxide ethanol | C(C)O.[OH-].[Na+]
solvent | ethanol | 1000 ml | C(C)O | C2H6O
product | sodium octadecenyl glycidyl phosphate | 46 g, yield: 100% | P(=O)(OC=CCCCCCCCCCCCCCCCC)(OCC1CO1)[O-].[Na+] | InChI=1S/C21H41O5P.Na/c1-2-3-4-5-6-7-8-9-10-11-12-13-14-15-16-17-18-25-27(22,23)26-20-21-19-24-21;/h17-18,21H,2-16,19-20H2,1H3,(H,22,23);/q;+1/p-1
